US07435744B2
2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-N-(3-nitro-phenyl)-acetamide (45 70002490)
The title compound is prepared from 2-chloro-N-(3-nitrophenyl)-acetamide and 4-(4-fluoro-benzyl-piperidine hydrochloride according to the method described in Example 142b. Melting Point: 118-120° C. (diethylether)

reactant | 2-chloro-N-(3-nitrophenyl)-acetamide | ClCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | 4-fluoro-benzyl-piperidine hydrochloride | Cl.FC1=CC=C(CN2CCCCC2)C=C1
reactant | diethylether | C(C)OCC | C4H10O
product | 2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-N-(3-nitro-phenyl)-acetamide | FC1=CC=C(CC2CCN(CC2)CC(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C20H22FN3O3
